US08445510B2
(2,6-Dichloro-3-fluorophenyl)methanol
To a solution of 2,6-Dichloro-3-fluorobenzoic acid (125 g, 0.59 mol) in THF (200 mL) was added BH3.THF (592 mL, 592 mmol, 1M solution in THF) dropwise at room temperature. The reaction mixture was heated to reflux for 12 h. The borane was quenched with methanol (200 mL) and the resulting solution was concentrated to dryness. The residue was again co-evaporated with methanol to remove most of the trimethylborate. To the residue was added aq. sodium carbonate (50 g in 500 mL). The mixture was cooled and a white fine precipitate was filtered off to give the title compound. 1H NMR (CDCl3, 300 MHz): δ=2.10 (t, 1H, J=6.9 Hz), 4.96 (d, 2H, J=6.9 Hz), 7.09 (dd, 1H, J=8.1, 9.0 Hz), 7.29 (dd, 1H, J=4.8, 9.0 Hz).

reactant | 2,6-Dichloro-3-fluorobenzoic acid | 0.59 mol, 125 g | ClC1=C(C(=O)O)C(=CC=C1F)Cl | C7H3Cl2FO2
reactant | BH3.THF | 592 mmol, 1M, 592 mL | B.C1CCOC1
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (2,6-Dichloro-3-fluorophenyl)methanol | ClC1=C(C(=CC=C1F)Cl)CO | C7H5Cl2FO
